US07700625B2
2-(4-Methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole
2-(4-Methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-isoindole-1,3-dione (149 m g, 0.38 mmol) was treated with a 1M solution of lithium aluminium hydride in TEF (5 mL, 5 mmol). The mixture was maintained at r.t. for 4 hours, 60° C. for 1 hour, then r.t. for a further 18 hours. The mixture was then cooled in ice and quenched by the dropwise addition of water (0.2 mL), 2N sodium hydroxide solution (0.4 mL) and water (0.4 mL). Magnesium sulfate was added, followed by ethyl acetate and then the mixture was stirred at r.t. for 15 minutes. The solids were removed by filtration, being well washed with ethyl acetate. Concentration of the filtrate gave a residue which was absorbed onto an SCX cartridge and washed with 5% methanol/dichloromethane then eluted with 10% 1M ammonia in methanol/dichloromethane to afford the title compound (134 mg, 97%). 1H NMR (methanol-d4) 7.43-7.39 (2H, m), 7.27 (1H, t), 6.99-6.96 (2H, m), 6.90 (1H, d), 6.88 (1H, d), 4.33 (2H, s), 4.28 (2H, s), 4.23 (2H, s), 4.18-4.15 (2H, m), 3.85-3.79 (5H, m), 3.67-3.64 (2H, m), 3.54-3.51 (2H, m), 3.33 (3H, s). MS: [M+H]+ 358.

reactant | 2-(4-Methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-isoindole-1,3-dione | 0.38 mmol | COC1=CC=C(CN2C(C3=CC=CC(=C3C2=O)OCCOCCOC)=O)C=C1 | C21H23NO6
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(4-Methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole | 134 mg, 97% | COC1=CC=C(CN2CC3=CC=CC(=C3C2)OCCOCCOC)C=C1 | C21H27NO4
